US04341905
The reaction apparatus used in Example 1 was charged with 4-methylphenol (54 grams), ethylene carbonate (45 grams) and a small amount of KF (0.5 grams, 0.5 percent). After thorough mixing the flask was immersed in an oil bath and the temperature adjusted to 160° C.±2°. After a reaction time of 1.1 hours, CO2 evolution ceased and the product, 4-(2-hydroxyethoxy)methylbenzene (71 grams, 94 percent yield) was recovered and purified by recrystallization from acetone.

reactant | 4-methylphenol | 54 grams | CC1=CC=C(C=C1)O | C7H8O
reactant | ethylene carbonate | 45 grams | C1(OCCO1)=O | C3H4O3
reactant | CO2 | C(=O)=O | CO2
catalyst | KF | 0.5 grams | [F-].[K+]
product | 4-(2-hydroxyethoxy)methylbenzene | 71 grams, 94 percent yield | OCCOCC1=CC=CC=C1 | C9H12O2
